US04005084
To a solution of 3.8 g of 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]-morpholine in 30 ml of toluene was added 1.2 g of ethyl chloroformate, and the mixture was heated under reflux for 6 hours. After cooling, the insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give 3.1 g of crude 4-ethoxycarbonyl-2-[2-(2-thenyl)-phenoxymethyl]morpholine as an oil. The oil was dissolved in 40 ml of ethanol, and a solution of 3.2 g of barium hydroxide in 50 ml of water was added, and the mixture was heated under reflux for 8 hours. After cooling, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The remaining oil was extracted with two 70 ml portions of 5% hydrochloric acid, and the combined water layer was made alkaline with sodium hydroxide. The liberated oil was extracted with benzene, and the benzene extract was dried over potassium carbonate. Then the benzene was distilled off to give 1.6 g of 2-[2-(2-thenyl)phenoxymethyl]-morpholine as an oil. A solution of the oil (1.6 g) in 15 ml of isopropyl ether was added to a solution of 0.65 g of maleic acid in 7 ml of ethanol to give 2.1 g of colorless crystals. The crystals were recrystallized from a mixture of methanol and isopropyl ether (1:1) to give 1.5 g of 2-[2-(2-thenyl)phenoxymethyl]morpholine maleate as colorless crystals, melting at 155°-156° C.

reactant | 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]-morpholine | 3.8 g | C(C1=CC=CC=C1)N1CC(OCC1)COC1=C(C=CC=C1)CC1=CC=CS1 | C23H25NO2S
reactant | ethyl chloroformate | 1.2 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-ethoxycarbonyl-2-[2-(2-thenyl)-phenoxymethyl]morpholine | 3.1 g | C(C)OC(=O)N1CC(OCC1)COC1=C(C=CC=C1)CC1=CC=CS1 | C19H23NO4S
